US07585880B2
3-{4-[(4-{[[4-(4-chlorophenyl)-5-methyl-1,3-oxazol-2-yl](ethyl)amino]methyl}benzyl)oxy]phenyl}propanoic acid
To a solution of methyl 3-(4-{[4-(chloromethyl)benzyl]-oxy}phenyl)propanoate (50 mg, 0.16 mmol) in N,N-dimethylformamide (1 mL) were added a solution of 4-(4-chlorophenyl)-N-ethyl-5-methyl-1,3-oxazole-2-amine (45 mg, 0.19 mmol) in N,N-dimethylformamide (0.5 mL) and potassium carbonate (33 mg, 0.24 mmol), and the mixture was stirred at 70° C. for 66 hr. Water (2 mL) was added to the reaction mixture and the mixture was extracted with dichloromethane (2 mL). The organic layer was concentrated under reduced pressure with a centrifugal concentration apparatus (GeneVac). The obtained resultant product was dissolved in methanol (2 mL), 1N aqueous sodium hydroxide solution (0.32 mL, 0.32 mmol) was added, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was acidified with 1N hydrochloric acid, and extracted with dichloromethane (2 mL). The organic layer was concentrated under reduced pressure with a centrifugal concentration apparatus (GeneVac). The residue was purified by preparative HPLC (gradient cycle B) to give the title compound (4.6 mg, yield 5%).

reactant | methyl 3-(4-{[4-(chloromethyl)benzyl]-oxy}phenyl)propanoate | 0.16 mmol, 50 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | 4-(4-chlorophenyl)-N-ethyl-5-methyl-1,3-oxazole-2-amine | 0.19 mmol, 45 mg | ClC1=CC=C(C=C1)C=1N=C(OC1C)NCC | C12H13ClN2O
reactant | potassium carbonate | 0.24 mmol, 33 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 0.32 mmol, 1N, 0.32 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
solvent | Water | 2 mL | O | H2O
product | 3-{4-[(4-{[[4-(4-chlorophenyl)-5-methyl-1,3-oxazol-2-yl](ethyl)amino]methyl}benzyl)oxy]phenyl}propanoic acid | 4.6 mg, yield 5% | ClC1=CC=C(C=C1)C=1N=C(OC1C)N(CC)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C29H29ClN2O4
